US04767760
To a stirred and refluxed solution of 1.5 parts of 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin2(3H)-yl)benzeneacetic acid in 100 parts of acetic acid were added 3 parts of zinc. Stirring was continued for 30 minutes at reflux temperature. The zinc salts were filtered off and the filtrate was evaporated. The residue was washed with water whereupon the solid product was filtered off and dissolved in a mixture of trichlorometmhane and methanol (90:10 by volume). The solution was dried, filtered and evaporated. The residue was washed with ethyl acetate and 2,2'-oxybispropane and dried, yielding 0.98 parts (67.2%) of 2,6-dichloro-α-(4-chlorophenyl)-4-(3,4,5,6-tetrahydro-3,5-dioxo-1,2,4-triazin-2(1H)-yl)benzeneacetic acid; mp. 194.2° C. (compound 1).

reactant | 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin2(3H)-yl)benzeneacetic acid | ClC1=C(C(=CC(=C1)N1N=CC(NC1=O)=O)Cl)C(C(=O)O)C1=CC=C(C=C1)Cl | C17H10Cl3N3O4
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,6-dichloro-α-(4-chlorophenyl)-4-(3,4,5,6-tetrahydro-3,5-dioxo-1,2,4-triazin-2(1H)-yl)benzeneacetic acid | 67.2% | ClC1=C(C(=CC(=C1)N1NCC(NC1=O)=O)Cl)C(C(=O)O)C1=CC=C(C=C1)Cl | C17H12Cl3N3O4
